US07592352B2
The mixture of 2-furfural (15 g, 0.15 mol), malonic acid (17.9 g, 0.17 mol) and piperidine(1.5 ml, 0.016 mol) in 80 ml of pyridine was stirred for 5 hours at 100° C. and then refluxed for 20 min, which was cooled down to room temperature and poured into water (180 ml), and resultant mixture was acidified with concentrated HCl. The generated precipitate was collected by filtration and dried under the reduced pressure to give 3-(furan-2-yl)-acrylic acid (16.8 g). 1H NMR (400 MHz, DMSO-d6) ppm 12.44 (brs, 1H), 7.83 (d, J=1.8 Hz, 1H), 7.40 (d, J=15.9 Hz, 1H), 6.93 (d, J=3.3 Hz, 1H), 6.63 (dd, J=1.8, 3.3 Hz, 1H), 6.17 (d, J=15.7 Hz, 1H).

reactant | 2-furfural | 0.15 mol, 15 g | C1=COC(=C1)C=O | C5H4O2
reactant | malonic acid | 0.17 mol, 17.9 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 0.016 mol, 1.5 ml | N1CCCCC1 | C5H11N
reactant | HCl | Cl | ClH
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 180 ml | O | H2O
product | 3-(furan-2-yl)-acrylic acid | 16.8 g | O1C(=CC=C1)C=CC(=O)O | C7H6O3
